US06441017B1
Step E: (S)-N-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide
A mixture of (S)-N-{1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide, as described above in Step D, (3.00 g, 3.61 mmol) and Lawesson's Reagent (728 mg, 1.80 mmol) in dry THF (45 mL), under argon, was heated to 45° C. for 90 min. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous Na2CO3 (125 mL) and CH2Cl2 (300 mL). The aqueous layer was extracted further with CH2Cl2 (150 mL) and the combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—40% EtOAc—1% MeOH—0.1% NH4OH to yield the desired product.

reactant | (S)-N-{1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C54H50N4O3Si
reactant | Lawesson's Reagent | 1.80 mmol, 728 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | (S)-N-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=S)=O | C54H50N4O2SSi
